US05086055
5-[2-[4-(4-ethylaminophenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone
Following the procedure of Example 2, the title compound is prepared from 5-(2-chloroethyl)-3-methyl-2-oxazolidinone and 1-(4-ethylaminophenyl)piperazine.

reactant | 5-(2-chloroethyl)-3-methyl-2-oxazolidinone | ClCCC1CN(C(O1)=O)C | C6H10ClNO2
reactant | 1-(4-ethylaminophenyl)piperazine | C(C)NC1=CC=C(C=C1)N1CCNCC1 | C12H19N3
product | 5-[2-[4-(4-ethylaminophenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone | C(C)NC1=CC=C(C=C1)N1CCN(CC1)CCC1CN(C(O1)=O)C | C18H28N4O2
